US04639328
3.5 g of 5-n-pentyl-thieno[3,2-b]thiophene-2-carboxylic acid chloride [obtainable by reacting 5-n-pentylthieno[3,2-b]thiophene-5-carboxylic acid (m.p. 156°, c.p. 196°) with thionyl chloride] in 20 ml of toluene are added dropwise to a mixture of 2.25 g of 4-n-pentylphenol, 1.08 g of pyridine and 30 ml of toluene, the mixture is heated to the boil for 2 hours and allowed to cool, the pyridine hydrochloride is filtered off, and the mixture is worked up in the usual manner. 4-n-Pentylphenyl 5-n-pentyl-thieno[3,2-b]thiophene-2-carboxylate of melting point 58° and clear point 93° is obtained.

reactant | 5-n-pentyl-thieno[3,2-b]thiophene-2-carboxylic acid chloride | 3.5 g | C(CCCC)C1=CC=2SC(=CC2S1)C(=O)Cl | C12H13ClOS2
reactant | 4-n-pentylphenol | 2.25 g | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | pyridine | 1.08 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-n-Pentylphenyl 5-n-pentyl-thieno[3,2-b]thiophene-2-carboxylate | C(CCCC)C1=CC=2SC(=CC2S1)C(=O)OC1=CC=C(C=C1)CCCCC | C23H28O2S2
